US05214055
2-methoxyethyl N-[1-(benzocyclobuten-1-ylmethyl)-piperid-4-yl]-N-methylcarbamate hydrochloride
This compound was prepared in accordance with the process described in Example 11 (Stages B and C) but using 2-methoxyethyl N-(1-benzylpiperid-4-yl)-N-methylcarbamate in Stage B. The latter is obtained in accordance with the process described in Stage B of Example 1 using methoxyethyl chloroformate instead of propionyl chloride.

reactant | 2-methoxyethyl N-(1-benzylpiperid-4-yl)-N-methylcarbamate | C(C1=CC=CC=C1)N1CCC(CC1)N(C(OCCOC)=O)C | C17H26N2O3
reactant | methoxyethyl chloroformate | ClC(=O)OCCOC | C4H7ClO3
product | 2-methoxyethyl N-[1-(benzocyclobuten-1-ylmethyl)-piperid-4-yl]-N-methylcarbamate hydrochloride | Cl.C1(=CC2=C1C=CC=C2)CN2CCC(CC2)N(C(OCCOC)=O)C | InChI=1S/C19H26N2O3.ClH/c1-20(19(22)24-12-11-23-2)17-7-9-21(10-8-17)14-16-13-15-5-3-4-6-18(15)16;/h3-6,13,17H,7-12,14H2,1-2H3;1H
